US04678855
Preparation of 4-(2-Hydroxyethylthio)benzene sulfonamide
A solution of 2-mercaptoethanol (58.6 g, 0.75 mol) in freshly degassed DMF (100 mL) was added dropwise under N2 to a stirred mixture of NaH (34.5 g, 50% oil suspension, 0.75 mol) and DMF (400 mL). When gas evolution was complete, N,N-dimethyl-N'-(4-bromobenzenesulfonyl)formamidine (146 g, 0.50 mol) was added and the mixture was heated on the steam bath for one hour. The DMF was removed in vacuo and methanol (500 mL) and 10% (w/v) aqueous NaOH solution (500 mL) was added to the residue. This solution was warmed on the steam bath for one hour and the methanol removed. The residue was diluted with water (2500 mL) and washed with petroleum ether. The separated aqueous layer was acidified with concentrated HCl. The white solid that separated was filtered, washed with water and dried. Extraction of the aqueous filtrate with ethyl acetate produced an additional quantity of product; total yield, 112.4 g; mp 103°-108° C. Recrystallization of a sample from water followed by recrystallization from dichloroethane gave material with mp 111°-112° C.

reactant | 2-mercaptoethanol | 0.75 mol, 58.6 g | SCCO | C2H6OS
reactant | NaH | 0.75 mol, 34.5 g | [H-].[Na+]
reactant | N,N-dimethyl-N'-(4-bromobenzenesulfonyl)formamidine | 0.50 mol, 146 g | CN(C=NS(=O)(=O)C1=CC=C(C=C1)Br)C | C9H11BrN2O2S
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(2-Hydroxyethylthio)benzene sulfonamide | OCCSC1=CC=C(C=C1)S(=O)(=O)N | C8H11NO3S2
